US06544985B2
(RS)-3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester
The title compound was prepared from (RS)-3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-benzoic acid methyl ester [prepared by the following sequence: i.) methyl 3-azidobenzoate [CAS-No. 93066-93-4] (15.55 g, 88 mmol) and (RS)-tert.-butyl-dimethyl-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-silane [CAS-No. 135294-85-8] (33.50 g, 132 mmol) were heated to 60° C. for 10 days; ii.) The obtained material (48.2 g, ca. 88 mmol) was stirred in TBAF (300 mL, 1M in THF) at 70° C. for 6 days and subsequently refluxed in 1N HCl (400 mL) for 2 h; iii.) The obtained material (16.15 g, 74 mmol) was stirred in MeOH (400 mL) and conc. H2SO4 (30 mL) at 23° C. for 11 days. iv.) Part of the obtained material (4.60 g, 19.7 mmol) was reacted with 3,4-dihydro-2H-pyran (2.67 mL, 29.5 mmol) and cat. amount p-TsOH.H2O in DCM (38 mL) at 23° C. for 20 h.] (6.20 g, 19.5 mmol) by treatment with lithium tert.-butyl acetate according to general procedure K (method b). Obtained as a yellow oil (8.47 g).

reactant | (RS)-3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O | C16H19N3O4
reactant | methyl 3-azidobenzoate | 88 mmol, 15.55 g | N(=[N+]=[N-])C=1C=C(C(=O)OC)C=CC1 | C8H7N3O2
reactant | (RS)-tert.-butyl-dimethyl-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-silane | 132 mmol, 33.50 g | C(C)(C)(C)[Si](C#CCOC1OCCCC1)(C)C | C14H26O2Si
reactant | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
reactant | 3,4-dihydro-2H-pyran | 29.5 mmol, 2.67 mL | O1CCCC=C1 | C5H8O
reactant | p-TsOH.H2O | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
solvent | TBAF | 1M, 300 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | HCl | 1N, 400 mL | Cl | ClH
solvent | MeOH | 400 mL | CO | CH4O
solvent | DCM | 38 mL | C(Cl)Cl | CH2Cl2
product | (RS)-3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
